US09387200B2
a) 5-Phenyl-[1,3,4]oxathiazol-2-one
To a solution of benzamide (66.03 mmol) in toluene (132 mL) was added chlorocarbonylsulfenyl chloride (82.4 mmol). The reaction mixture was stirred at 100° C. for 4 h. After cooling to r.t. the reaction mixture was concentrated in vacuo, and the residue was crystallized from EtOAc to give the title compound (9.43 g) as a white solid: MS (m/z) 179.1 (M+1).

reactant | benzamide | 66.03 mmol | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | chlorocarbonylsulfenyl chloride | 82.4 mmol | ClC(=O)SCl | CCl2OS
solvent | toluene | 132 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Phenyl-[1,3,4]oxathiazol-2-one | 9.43 g | C1(=CC=CC=C1)C1=NSC(O1)=O | C8H5NO2S
